US07348318B2
Synthesis of (3S, P (SR))-3-amino-1-amino(phenoxyacetylamino)phosphinyl-2-piperidone
Palladium black (40.0 mg) was added to a solution of (3S, P (SR))-3-benzyloxycarbonylamino-1-amino(phenoxyacetylamino)phosphinyl-2-piperidone (200.9 mg, 0.4363 mmol) in ethanol (6 mL), and the resulting mixture was stirred at room temperature for 16 hours under a hydrogen atmosphere.

reactant | 3-benzyloxycarbonylamino-1-amino(phenoxyacetylamino)phosphinyl-2-piperidone | 0.4363 mmol, 200.9 mg | C(C1=CC=CC=C1)OC(=O)NC1(C(N(CCC1)N)=O)P(=O)NC(COC1=CC=CC=C1)=O | C21H25N4O6P
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | Palladium black | 40.0 mg | [Pd] | Pd
product | 3-amino-1-amino(phenoxyacetylamino)phosphinyl-2-piperidone | NC1(C(N(CCC1)N)=O)P(=O)NC(COC1=CC=CC=C1)=O | C13H19N4O4P
